US06603005B2
A mixture of 1 g of methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-hydroxypropyl]piperidine-4-carboxylate, 0.8 g of 1-(2-bromoethoxy)-3,5-difluorobenzene and 0.42 g of potassium carbonate in 45 cm3 of acetonitrile was maintained at a temperature of 80° C. with stirring and under an argon atmosphere for 20 hours. The suspension was filtered, the insoluble material was washed with ethyl acetate and the filtrate was then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue was purified by chromatography under a pressure of 100 kPa of argon, on a column of silica gel (particle size 40-60μ; diameter 3.5 cm; height: 38 cm), eluting with a dichloromethane/methanol mixture (97/4 by volume) and collecting 35-cm3 fractions. Fractions 9 to 20 were combined and then concentrated to dryness under the above conditions. 1.1 g of 3-(3-chloro-6-methoxyquinolin-4-yl)-9-[2-(3,5-difluorophenoxy)ethyl]-2-oxa-9-azaspiro[5.5]undecan-1-one were obtained.

reactant | methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-hydroxypropyl]piperidine-4-carboxylate | 1 g | ClC=1C=NC2=CC=C(C=C2C1C(CCC1(CCNCC1)C(=O)OC)O)OC | C20H25ClN2O4
reactant | 1-(2-bromoethoxy)-3,5-difluorobenzene | 0.8 g | BrCCOC1=CC(=CC(=C1)F)F | C8H7BrF2O
reactant | potassium carbonate | 0.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 45 cm3 | C(C)#N | C2H3N
product | 3-(3-chloro-6-methoxyquinolin-4-yl)-9-[2-(3,5-difluorophenoxy)ethyl]-2-oxa-9-azaspiro[5.5]undecan-1-one | 1.1 g | ClC=1C=NC2=CC=C(C=C2C1C1OC(C2(CC1)CCN(CC2)CCOC2=CC(=CC(=C2)F)F)=O)OC | C27H27ClF2N2O4
